US08957064B2
2-methyl-7-(4-{3-[5-(6-methylpyridine-2-yl)-1H-[1,2,4]triazole-3-yl]-azetidine-1-ylmethyl}-phenyl)-6-phenyl-imidazo[1,2-a]pyrimidine
The compound is prepared in analogy to example 37.0. 306 mg 2-(5-Azetidine-3-yl-[1,2,4]triazole-3-yl)-6-methylpyridine×2HCl (60% pure) are reacted with 200 mg (0.64 mmol) 4-(2-methyl-6-phenyl-imidazo[1,2-a]pyrimidin-7-yl)-benzaldehyde. After the usual work-up and purification 146 mg (42.6%) of the title compound are obtained.

reactant | 2-(5-Azetidine-3-yl-[1,2,4]triazole-3-yl)-6-methylpyridine | 306 mg | N1CC(C1)C1=NC(=NN1)C1=NC(=CC=C1)C | C11H13N5
reactant | 4-(2-methyl-6-phenyl-imidazo[1,2-a]pyrimidin-7-yl)-benzaldehyde | 0.64 mmol, 200 mg | CC=1N=C2N(C=C(C(=N2)C2=CC=C(C=O)C=C2)C2=CC=CC=C2)C1 | C20H15N3O
product | 2-methyl-7-(4-{3-[5-(6-methylpyridine-2-yl)-1H-[1,2,4]triazole-3-yl]-azetidine-1-ylmethyl}-phenyl)-6-phenyl-imidazo[1,2-a]pyrimidine | CC=1N=C2N(C=C(C(=N2)C2=CC=C(C=C2)CN2CC(C2)C2=NNC(=N2)C2=NC(=CC=C2)C)C2=CC=CC=C2)C1 | C31H28N8
